US06229011B1
4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(2-chloro-4-methylsulfonylphenyl)carbonyl]-L-phenylalanine methyl ester was prepared in 73% yield from 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester and 2-chloro-4-methylsulfonylbenzoic acid using the general procedure described in example 3. HR MS: Obs. mass, 583.0263. Calcd. mass, 583.0264 (M+H).

reactant | 4-[[(2,6-dichlorophenyl)carbonyl]amino]-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C17H16Cl2N2O3
reactant | 2-chloro-4-methylsulfonylbenzoic acid | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C8H7ClO4S
product | 4-[[(2,6-Dichlorophenyl)carbonyl]amino]-N-[(2-chloro-4-methylsulfonylphenyl)carbonyl]-L-phenylalanine methyl ester | 73% yield | COC([C@@H](NC(=O)C1=C(C=C(C=C1)S(=O)(=O)C)Cl)CC1=CC=C(C=C1)NC(=O)C1=C(C=CC=C1Cl)Cl)=O | C25H21Cl3N2O6S
